data/rgd1/barriers/filtered.csv
rxn,smiles,ea
MR_306388_0,[C:1]([C:2]([N:5]([C:6]([C:3]([H:16])([H:17])[H:18])=[O:9])[O:8][H:10])([H:14])[H:15])([C:4]([H:19])([H:20])[H:21])([N:7]([H:12])[H:13])[H:11]>>[C:1](\[C:2]([N:5]([C:6]([C:3]([H:16])([H:17])[H:18])([O:9][H:12])[H:11])[O:8][H:10])([H:14])[H:15])([C:4]([H:19])([H:20])[H:21])=[N:7]/[H:13],59.421739999999375
MR_94241_0,[C:1](\[N:2]([H:6])[H:7])([O:3][H:5])=[N:4]/[H:8]>>[C:1](=[N:2]\[H:6])(\[O:3][H:5])[N:4]([H:7])[H:8],40.04955999998906
MR_224645_0,[C:1]([C:2]([H:10])([H:11])[H:12])([N:3]([O:4][N:5]=[O:6])[H:7])([H:8])[H:9]>>[C:1]([C:2]([H:10])([H:11])[H:12])([O:4][N:3]([N:5]=[O:6])[H:7])([H:8])[H:9],71.5902200000238
MR_466233_1,[C:1]([C:3](=[C:6]([H:15])[H:16])[O:7][C:2]([N:4]([H:8])[H:9])=[C:5]([H:13])[H:14])([H:10])([H:11])[H:12]>>[C:1]([C:3]([C:6]([C:2]([N:4]([H:8])[H:9])=[C:5]([H:13])[H:14])([H:15])[H:16])=[O:7])([H:10])([H:11])[H:12],66.15230499998489
MR_694979_0,[C:1](/[C:4](=[C:3](\[N:2]([N:5]([H:12])[H:13])[C:6](=[C:7]([H:18])[H:19])[H:14])[O:8][H:10])[O:9][H:11])([H:15])([H:16])[H:17]>>[C:1]([C:4](/[C:3](=[N:2]/[N:5]([H:12])[H:13])[O:8][H:10])([C:6](=[C:7]([H:18])[H:19])[H:14])[O:9][H:11])([H:15])([H:16])[H:17],64.79627749998428
MR_537804_1,[C:1](/[C:2](=[C:5](\[N:3]([H:8])[H:9])[H:12])[O:6]/[C:4](=[N:7]\[H:10])[H:11])([H:13])([H:14])[H:15]>>[C:1]([C@:2]1([C:5]([N:3]([H:8])[H:9])([H:11])[H:12])/[C:4](=[N:7]\[H:10])[O:6]1)([H:13])([H:14])[H:15],55.36683499996428
MR_546695_2,[C:1]([C:2]([N:4]([C:3]([H:17])([H:18])[H:19])[C:7](=[C:8]([H:20])[H:21])[H:16])([H:14])[H:15])([N:5]([H:10])[H:11])([N:6]([H:12])[H:13])[H:9]>>[C:1](\[C:2]([N:4]([C:3]([H:17])([H:18])[H:19])[C:7]([C:8]([H:12])([H:20])[H:21])([H:9])[H:16])([H:14])[H:15])([N:5]([H:10])[H:11])=[N:6]/[H:13],56.396562500004
MR_517441_1,[C:1](/[C:2]([O:6][H:10])=[N:7]/[N:3]([H:12])[H:13])([O:4][H:8])([O:5][H:9])[H:11]>>[C:1](=[C:2]([O:6][H:10])[N:7]([N:3]([H:12])[H:13])[H:11])([O:4][H:8])[O:5][H:9],72.87220249999734
MR_78601_2,[C:1]([C:2]([C:3]([H:14])([H:15])[H:16])([H:11])[H:12])([N:4]([H:9])[H:10])([C:5](=[C:6]([H:17])[H:18])[H:13])[O:7][H:8]>>[C:1]([N:4]([H:9])[H:10])([C:5]([C:2]([C:3]([H:14])([H:15])[H:16])([H:11])[H:12])([C:6]([H:8])([H:17])[H:18])[H:13])=[O:7],68.25066500000176
MR_590778_0,[C:1]1([C:2]([H:9])([H:10])[H:11])([H:8])[N:3]([O:5][H:6])[N:4]1[H:7]>>[C:1](\[C:2]([H:9])([H:10])[H:11])([N:3]([O:5][H:6])[H:8])=[N:4]/[H:7],52.71250999999566
MR_396443_0,[C:1]([C:4]([N:2](/[C:3]([O:6][H:9])=[N:7]/[N:5]([H:11])[H:12])[H:10])=[O:8])([H:13])([H:14])[H:15]>>[C:1]([C:4]([N:7](/[C:3](=[N:2]/[H:10])[O:6][H:9])[N:5]([H:11])[H:12])=[O:8])([H:13])([H:14])[H:15],41.632742500004696
MR_672275_1,[C:1]([C:2]([H:10])([H:11])[H:12])([C:3]([H:13])([H:14])[H:15])([C:4]([H:16])([H:17])[H:18])[N:7][C:8][N:6][O:5][H:9]>>[C:1]([C:2]([H:10])([H:11])[H:12])([C:3]([H:13])([H:14])[H:15])([C:4]([H:16])([H:17])[H:18])[C:8]1[N:6]([O:5][H:9])[N:7]1,72.53899999998254
MR_454228_1,[C:1](/[C:5](=[C:3]([C:4](=[C:6](/[C:2]([H:19])([H:20])[H:21])[O:10][H:13])\[N:7]([H:14])[H:15])/[O:8][H:11])[O:9][H:12])([H:16])([H:17])[H:18]>>[C:1]([C:5]1([O:9][H:12])[C:3]([O:8][H:11])=[C:4]([N:7]([H:14])[H:15])[C:6]1([C:2]([H:19])([H:20])[H:21])[O:10][H:13])([H:16])([H:17])[H:18],27.672750000044744
MR_669116_2,[C:1]([C:3]([C:4]([O:5][C:2]([H:13])([H:14])[H:15])([O:9][H:10])[H:12])=[O:8])([O:6][H:11])=[O:7]>>[C:1]([C:3]([C:4](=[O:9])[H:12])=[O:8])([O:5][C:2]([H:13])([H:14])[H:15])([O:6][H:11])[O:7][H:10],43.832757499978925
MR_300342_2,[C:1]1([H:11])([H:12])[C:4]([C:3]([H:17])([H:18])[H:19])([C:6]([N:5]([H:9])[H:10])([H:13])[H:16])[N:7]1[N:8]=[C:2]([H:14])[H:15]>>[C:1](/[C:4]([C:3]([H:17])([H:18])[H:19])=[C:6](\[N:5]([H:9])[H:10])[H:13])(/[N:7]=[N:8]/[C:2]([H:14])([H:15])[H:16])([H:11])[H:12],39.69376750001345
MR_367494_1,[C:1]([O:8][C:5]([C:2]([H:16])([H:17])[H:18])(/[C:6]([C:3]([H:19])([H:20])[H:21])=[N:9]/[H:11])/[C:7](=[N:4]/[H:10])[H:12])([H:13])([H:14])[H:15]>>[C:1]([O:8]/[C:5]([C:2]([H:16])([H:17])[H:18])=[C:7](/[N:4](/[C:6]([C:3]([H:19])([H:20])[H:21])=[N:9]/[H:11])[H:10])[H:12])([H:13])([H:14])[H:15],61.41467999999705
MR_68692_0,[C@@:1]([C:2]([H:9])([H:10])[H:11])([O:3][O:4][H:6])([O:5][H:7])[H:8]>>[C@:1]([C:2]([H:9])([H:10])[H:11])([O:3][O:5][H:7])([O:4][H:6])[H:8],69.59790749998888
MR_156406_1,[C:1](/[C:5](=[C:3](\[C:2]([H:13])([H:14])[H:15])[N:4]([H:8])[H:9])[H:12])([O:6][H:7])([H:10])[H:11]>>[C:1](=[C:5]([C:3]([C:2]([H:13])([H:14])[H:15])([N:4]([H:8])[H:9])[O:6][H:7])[H:12])([H:10])[H:11],49.162115000006565
MR_621420_1,[C:1]([N:3]([C:2]([H:16])([H:17])[H:18])[O:7][H:9])([N:8]=[C:4]([N:5]([H:10])[H:11])[N:6]([H:12])[H:13])([H:14])[H:15]>>[C:1](=[N:8][C:4]([N:3]([C:2]([H:16])([H:17])[H:18])[O:7][H:9])([N:5]([H:10])[H:11])[N:6]([H:12])[H:13])([H:14])[H:15],57.48088250001288
